Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
[CH3:1][C:2](=[O:3])[NH:4][CH:5]1[CH2:6][CH2:7][N:8]([C:9](=[O:10])[O:11][CH2:12][c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[CH2:19][CH2:20][CH:21]1[OH:22]>>[CH3:1][C:2](=[O:3])[NH:4][CH:5]1[CH2:6][CH2:7][N:8]([C:9](=[O:10])[O:11][CH2:12][c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[CH2:19][CH2:20][C:21]1=[O:22],[CH3:1][C:2](=[O:3])[NH:4][CH:5]1[CH2:6][CH2:7][N:8]([C:9](=[O:10])[O:11][CH2:12][c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[CH2:19][CH2:20][CH:21]1[OH:22].O[Cr:301]([OH:302])(=[O:303])=O>>[CH3:1][C:2](=[O:3])[NH:4][CH:5]1[CH2:6][CH2:7][N:8]([C:9](=[O:10])[O:11][CH2:12][c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[CH2:19][CH2:20][C:21]1=[O:22],Jones_oxidation,"[(22, 301), ([301, 303], 303), (303, [303, 301]), ([301, 302], 22.1), ([22.1, 22], 22), ([301, 303], 21.1), ([21.1, 21], [21, 22]), ([22, 301], 301)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CO[C:1](=[O:2])[c:3]1[n:4][cH:5][c:6](-[c:7]2[cH:8][cH:9][cH:10][c:11](-[c:12]3[cH:13][cH:14][cH:15][cH:16][c:17]3[C:18]([F:19])([F:20])[F:21])[cH:22]2)[nH:23]1.[NH3:24]>>[C:1](=[O:2])([c:3]1[n:4][cH:5][c:6](-[c:7]2[cH:8][cH:9][cH:10][c:11](-[c:12]3[cH:13][cH:14][cH:15][cH:16][c:17]3[C:18]([F:19])([F:20])[F:21])[cH:22]2)[nH:23]1)[NH2:24],C[O:101][C:1](=[O:2])[c:3]1[n:4][cH:5][c:6](-[c:7]2[cH:8][cH:9][cH:10][c:11](-[c:12]3[cH:13][cH:14][cH:15][cH:16][c:17]3[C:18]([F:19])([F:20])[F:21])[cH:22]2)[nH:23]1.[NH3:24]>>[C:1](=[O:2])([c:3]1[n:4][cH:5][c:6](-[c:7]2[cH:8][cH:9][cH:10][c:11](-[c:12]3[cH:13][cH:14][cH:15][cH:16][c:17]3[C:18]([F:19])([F:20])[F:21])[cH:22]2)[nH:23]1)[NH2:24],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(24, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
F[c:1]1[cH:2][cH:3][c:4]([N+:5](=[O:6])[O-:7])[cH:8][n:9]1.[CH3:10][C:11]([CH3:12])([CH3:13])[O:14][C:15](=[O:16])[CH:17]1[CH2:18][CH2:19][CH:20]([OH:21])[CH2:22][CH2:23]1>>[c:1]1([O:21][CH:20]2[CH2:19][CH2:18][CH:17]([C:15]([O:14][C:11]([CH3:10])([CH3:12])[CH3:13])=[O:16])[CH2:23][CH2:22]2)[cH:2][cH:3][c:4]([N+:5](=[O:6])[O-:7])[cH:8][n:9]1,[CH3:10][C:11]([CH3:12])([CH3:13])[O:14][C:15](=[O:16])[CH:17]1[CH2:18][CH2:19][CH:20]([OH:21])[CH2:22][CH2:23]1.[F:101][c:1]1[cH:2][cH:3][c:4]([N+:5](=[O:6])[OH:7])[cH:8][n:9]1.[H-:301].[Na+]>>[c:1]1([O:21][CH:20]2[CH2:19][CH2:18][CH:17]([C:15]([O:14][C:11]([CH3:10])([CH3:12])[CH3:13])=[O:16])[CH2:23][CH2:22]2)[cH:2][cH:3][c:4]([N+:5](=[O:6])[OH:7])[cH:8][n:9]1,SNAr_alco(thi)ol(para),"[(301, 21.1), ([21.1, 21], 21), (21, 1), ([1, 9], [9, 8]), ([8, 4], [4, 5]), ([5, 6], 6), (6, [6, 5]), ([5, 4], [4, 8]), ([8, 9], [9, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][c:2]1[cH:3][cH:4][c:5]2[c:6]([cH:7]1)[CH2:8][O:9][c:10]1[cH:11][c:12]([F:13])[cH:14][cH:15][c:16]1/[C:17]2=[C:18](\[CH3:19])[C:20]#[N:21].[F:22][C:23]([F:24])([F:25])[c:26]1[n:27][c:28]2[cH:29][cH:30][cH:31][cH:32][c:33]2[nH:34]1>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]2[c:6]([cH:7]1)[CH2:8][O:9][c:10]1[cH:11][c:12]([F:13])[cH:14][cH:15][c:16]1/[C:17]2=[C:18](\[CH3:19])[C:20]#[N:21])[n:34]1[c:26]([C:23]([F:22])([F:24])[F:25])[n:27][c:28]2[cH:29][cH:30][cH:31][cH:32][c:33]12,[Br:101][CH2:1][c:2]1[cH:3][cH:4][c:5]2[c:6]([cH:7]1)[CH2:8][O:9][c:10]1[cH:11][c:12]([F:13])[cH:14][cH:15][c:16]1/[C:17]2=[C:18](\[CH3:19])[C:20]#[N:21].[F:22][C:23]([F:24])([F:25])[c:26]1[n:27][c:28]2[cH:29][cH:30][cH:31][cH:32][c:33]2[nH:34]1>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]2[c:6]([cH:7]1)[CH2:8][O:9][c:10]1[cH:11][c:12]([F:13])[cH:14][cH:15][c:16]1/[C:17]2=[C:18](\[CH3:19])[C:20]#[N:21])[n:34]1[c:26]([C:23]([F:22])([F:24])[F:25])[n:27][c:28]2[cH:29][cH:30][cH:31][cH:32][c:33]12,SN2,"[(34, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
